US04096263
A solution of 4-pyridylaminoacetaldehyde diethyl acetal (7.0 g.) in a mixture of dried dimethylformamide (20 ml.) and dried hexamethylphosphoric triamide (7.5 ml.) was dropwise added over 5 minutes under ice-cooling and stirring to a suspension of 65.5% sodium hydride (2.0 g.) in dried dimethylformamide (3 ml.). The mixture was stirred for 10 minutes at ambient temperature, for 30 minutes at 60° C and for 15 minutes under ice-cooling. A solution of benzyl chloroformate (9.0 g.) in dried dimethylformamide (2 ml.) was dropwise added thereto under stirring and ice-cooling. The resulting mixture was stirred for 20 minutes under ice-cooling and for 15 minutes at ambient temperature. After water was dropwise added to the reaction mixture, the mixture was extracted 3 times with ethyl acetate. The extract was in turn washed twice with water and once with a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residual oil was purified by column chromatography on silica gel (60 g.) using a mixture of benzene and ethyl acetate (7 : 3) as developing solvent to give oil of N-benzyloxycarbonyl-N-(4-pyridyl)aminoacetaldehyde diethyl acetal (1.3 g.).

reactant | 4-pyridylaminoacetaldehyde diethyl acetal | 7.0 g | C(C)OC(CNC1=CC=NC=C1)OCC | C11H18N2O2
reactant | hexamethylphosphoric triamide | 7.5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | benzyl chloroformate | 9.0 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-benzyloxycarbonyl-N-(4-pyridyl)aminoacetaldehyde diethyl acetal | 1.3 g | C(C)OC(CN(C1=CC=NC=C1)C(=O)OCC1=CC=CC=C1)OCC | C19H24N2O4
